US07176210B2
Preparation of Intermediate 7-Chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-5,6-dimethylpyrazolo[1,5-a]pyrimidine (I-4A-1b)
To a slurry of 3-(4-chlorophenyl)-2-(2-chlorophenyl)-5,6-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ol (I-4A-1a; 0.277 g, 0.721 mmol) and diisopropylethylamine (0.188 ml, 1.08 mmol) in toluene (7.2 ml) at room temperature was added POCl3 (0.336 ml, 3.60 mmol), dropwise. The mixture was heated at 100° C. for 7 hours, cooled to room temperature, and then slowly added to a stirred mixture of ice, saturated aqueous sodium bicarbonate and ethyl acetate. The aqueous layer was separated and extracted with additional ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), and then concentrated, in vacuo, to afford the crude product. Purification on a Biotage™ Flash 40S column using 0–8% ethyl acetate in hexanes as eluant afforded I-4A-1b (146 mg, 50%) as a yellow solid: +ESI MS (M+1) 402.0; 1H NMR (400 MHz, CD2Cl2) δ 7.55–7.35 (m, 6H), 7.25 (d, J=8.7 Hz, 2H), 2.66 (s, 3H), 2.47 (s, 3H).

reactant | 3-(4-chlorophenyl)-2-(2-chlorophenyl)-5,6-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ol | 0.721 mmol, 0.277 g | ClC1=CC=C(C=C1)C=1C(=NN2C1N=C(C(=C2O)C)C)C2=C(C=CC=C2)Cl | C20H15Cl2N3O
reactant | diisopropylethylamine | 1.08 mmol, 0.188 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | POCl3 | 3.60 mmol, 0.336 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 7.2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-5,6-dimethylpyrazolo[1,5-a]pyrimidine | ClC1=C(C(=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)C)C | C20H14Cl3N3
